US06566367B2
To a solution of 5-iodo-2-aminobenzoic acid (2.6g; 10 mmol) in ethylene glycol dimethyl ether (DME, 20 mL) add tetrakis(triphenylphosphine)palladium(0) (150 mg) under argon. After the catalyst dissolved completely, add successively 3-methoxybenzeneboronic acid (1.65 g; 11 mmol) and sodium carbonate (1M in water, 30 mL). Heat the mixture at 80° C. for 1 hour. Cool the reaction mixture then wash with 50% EtOAc in hexane. Filter the aqueous layer through a short pad of celite to remove palladium black and carefully pour the filtrate into cold 3N hydrochloric acid (25 mL) under stirring. Collect the precipitate by filtration and air-dry to obtain 5-(3-methoxyphenyl)-2-aminobenzoic acid as a white solid.

reactant | 5-iodo-2-aminobenzoic acid | 10 mmol, 2.6g | IC=1C=CC(=C(C(=O)O)C1)N | C7H6INO2
reactant | 3-methoxybenzeneboronic acid | 11 mmol, 1.65 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 1M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-methoxyphenyl)-2-aminobenzoic acid | COC=1C=C(C=CC1)C=1C=CC(=C(C(=O)O)C1)N | C14H13NO3
